US07977370B2
N-methyl-1-phenyl-4,4-bis(3-(2-(pyridin-4-yl)ethyl)-1H-indol-2-yl)cyclohexanamine (Example No. 6)
3-(2-pyridin-4-ylethyl)-1H-indole (667 mg, 3 mmol, synthesis cf. WO2008009415, indole unit Ind-14) together with 4-(methylamino)-4-phenylcyclohexanone (610 mg, 3 mmol, synthesis cf. WO2008009415, ketone unit Ket-15) was dissolved in abs. dichloromethane (45 ml) and mixed with trifluoromethane sulphonic acid (0.613 ml, 6.9 mmol). The batch was stirred for 64 h at RT, and a brown oil separated out. For work up the reaction solution was mixed with 1N NaOH (30 ml) and methanol (10 ml). The mixture was stirred a further 60 min. After separation of the phases the aqueous phase was extracted with dichloromethane (3×10 ml). The combined organic extracts were dried over Na2SO4 and then concentrated to low volume. The raw product obtained (1.47 g) was purified by column chromatography [silica gel 60 (90 g); ethyl acetate/methanol 5:1 (1200 ml); ethyl acetate/methanol 1:1 (1200 ml)].

reactant | 3-(2-pyridin-4-ylethyl)-1H-indole | 3 mmol, 667 mg | N1=CC=C(C=C1)CCC1=CNC2=CC=CC=C12 | C15H14N2
reactant | 4-(methylamino)-4-phenylcyclohexanone | 3 mmol, 610 mg | CNC1(CCC(CC1)=O)C1=CC=CC=C1 | C13H17NO
reactant | trifluoromethane sulphonic acid | 6.9 mmol, 0.613 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | N-methyl-1-phenyl-4,4-bis(3-(2-(pyridin-4-yl)ethyl)-1H-indol-2-yl)cyclohexanamine | CNC1(CCC(CC1)(C=1NC2=CC=CC=C2C1CCC1=CC=NC=C1)C=1NC2=CC=CC=C2C1CCC1=CC=NC=C1)C1=CC=CC=C1 | C43H43N5
